US04713471
Preparation of 3-(4-Benzyloxyphenoxy)-2-butanone
The process as indicated in Example 1 was repeated a number of times, utilizing molar quantities each of 4-benzyloxyphenol and 3-chloro-2-butanone, and varying quantities of base, catalyst and solvent, as well as differing times and temperatures.

reactant | 4-benzyloxyphenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
product | 3-(4-Benzyloxyphenoxy)-2-butanone | C(C1=CC=CC=C1)OC1=CC=C(OC(C(C)=O)C)C=C1 | C17H18O3
